US07416682B2
3-Bromo-6-methoxy-2-methylbenzo[b]thiophene
A mixture of 20.63 g (0.13 mol) of 6-Methoxy-2-methylbenzo[b]thiophene and 250 mL of CHCl3 is cooled by using a ice-water bath. A solution consisting of 20.08 g (0.14 mol) of Br2 and 90 mL of CHCl3 is added dropwise. After the addition is completed, the mixture is stirred for 30 min at room temperature and then hydrolysed with 300 mL of saturated aqueous Na2S2O6 solution. The aqueous phase is extracted twice with 300 mL of CHCl3. The combined organic phases are washed several times with water, dried over magnesium sulfate and then are concentrated under reduced pressure. The resulting solid recrystallised from methanol gives a white solid (28.50 g, 88% yield).

reactant | 6-Methoxy-2-methylbenzo[b]thiophene | 0.13 mol, 20.63 g | COC=1C=CC2=C(SC(=C2)C)C1 | C10H10OS
reactant | Br2 | 0.14 mol, 20.08 g | BrBr | Br2
solvent | CHCl3 | 90 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-6-methoxy-2-methylbenzo[b]thiophene | 28.50 g, 88% yield | BrC=1C2=C(SC1C)C=C(C=C2)OC | C10H9BrOS
